US05177089
4-(2-methyl-1,3-thiazol-4-yl)benzaldehyde
2.95 g of 4-(2-methyl-1,3-thiazol-4-yl)benznitrile was dissloved in 100 ml of benzene and thereto was added dropwise a solution in toluene (1.5M) of diisobutylalminum hydride at the room temperature. Agitation was made for 1 hour. An excess amount of sodium sulfate dihydrate was added to the mixture and the resultant was stirred at the room temperature. A filtrate liquid thereof was concentrated and purified with column chromatography using silica gel and dichloromethane to obtain 1.95 g of the intended compound with a yield of 68%.

reactant | 4-(2-methyl-1,3-thiazol-4-yl)benznitrile | 2.95 g | CC=1SC=C(N1)C1=CC=C(C#N)C=C1 | C11H8N2S
reactant | hydride | [H-]
reactant | sodium sulfate dihydrate | O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | toluene | 1.5M | C1(=CC=CC=C1)C | C7H8
product | 4-(2-methyl-1,3-thiazol-4-yl)benzaldehyde | 1.95 g, yield of 68% | CC=1SC=C(N1)C1=CC=C(C=O)C=C1 | C11H9NOS
